US07964607B2
6-[(3S,4S)-1-(2,1,3-benzothiadiazol-5-ylmethyl)-4-methylpyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
Following the procedure for the preparation of 6-{(3S,4S)-4-methyl-1-[(2-methylpyrimidin-5-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one but substituting benzo[c][1,2,5]thiadiazole-5-carbaldehyde provided the title compound. 400 MHz 1H NMR (CDCl3) δ 10.97 (brs, 1H), 8.02-8.00 (m, 2H), 7.86 (s, 1H), 7.77 (d, J=1.2 Hz, 1H), 4.81-4.75 (m, 1H), 4.12-4.06 (m, 2H), 3.96-3.92 (m, 1H), 3.81-3.78 (m, 1H), 3.60-3.52 (m, 2H), 3.38 (t, J=8.3 Hz, 1H), 3.03 (d, J=9.9 Hz, 1H), 2.88-2.85 (m, 1H), 2.68-2.63 (m, 1H), 2.47-2.45 (m, 1H), 2.37-2.28 (m, 2H), 2.04 (t, J=8.7 Hz, 1H), 1.90-1.80 (m, 2H), 1.21 (d, J=7.1 Hz, 3H). MS: (M+H m/z 452.1).

reactant | 6-{(3S,4S)-4-methyl-1-[(2-methylpyrimidin-5-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C[C@H]1[C@@H](CN(C1)CC=1C=NC(=NC1)C)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O | C21H27N7O2
reactant | benzo[c][1,2,5]thiadiazole-5-carbaldehyde | N=1SN=C2C1C=CC(=C2)C=O | C7H4N2OS
product | 6-[(3S,4S)-1-(2,1,3-benzothiadiazol-5-ylmethyl)-4-methylpyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | N=1SN=C2C1C=CC(=C2)CN2C[C@H]([C@@H](C2)C)C=2NC(C1=C(N2)N(N=C1)C1CCOCC1)=O | C22H25N7O2S
